US06358980B1
(4-Pent-2-ynyloxy-phenylsulfanyl)-acetic acid ethyl ester was prepared according to the general method as outlined in Example 1 (Step 2). Starting from (4-hydroxy-phenylsulfanyl)-acetic acid ethyl ester (5 g, 30 mmol) and 2-pentynyl chloride (3.7 g, 36.6 mmol) 7.15 g of the product isolated. Yield 7.15 g (86%); brown oil; MS: 278 EI (M+H)+

reactant | (4-hydroxy-phenylsulfanyl)-acetic acid ethyl ester | 30 mmol, 5 g | C(C)OC(CSC1=CC=C(C=C1)O)=O | C10H12O3S
reactant | 2-pentynyl chloride | 36.6 mmol, 3.7 g | C(C#CCC)Cl | C5H7Cl
product | (4-Pent-2-ynyloxy-phenylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CC=C(C=C1)OCC#CCC)=O | C15H18O3S
